US06423704B1
Hydrolyze 4-(1-pentyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.70 g, 1.81 mmol) by refluxing an ethanol solution of the compound with hydroiodic acid (57%, 5 mL) as described in Example 111 to provide 2-[1,4]diazepan-1-yl-1-pentyl-1H-benzoimidazole dihydroiodide (0.85 g).

reactant | 4-(1-pentyl-1H-benzoimidazol-2-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.81 mmol, 0.70 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCCCC)C=CC=C2 | C22H34N4O2
reactant | hydroiodic acid | 5 mL | I | HI
solvent | ethanol | C(C)O | C2H6O
product | 2-[1,4]diazepan-1-yl-1-pentyl-1H-benzoimidazole dihydroiodide | 0.85 g | I.I.N1(CCNCCC1)C1=NC2=C(N1CCCCC)C=CC=C2 | InChI=1S/C17H26N4.2HI/c1-2-3-6-13-21-16-9-5-4-8-15(16)19-17(21)20-12-7-10-18-11-14-20;;/h4-5,8-9,18H,2-3,6-7,10-14H2,1H3;2*1H
